US08871361B2
2-(3-bromophenyl)pyridine (4 g, 17.09 mmol), Pd2(dba)3 (0.156 g, 0.171 mmol), dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine (S-Phos) (0.281 g, 0.683 mmol), and sodium t-butoxide (2.463 g, 25.6 mmol) were mixed in 100 mL of xylene. The solution was bubbled with nitrogen for 20 min. Aniline (2.387 g, 25.6 mmol) was added. The reaction was heated up to reflux for 6 h. After cooled to rt, dichloromethane was added. The mixture was filtered through Celite®. The solvent was then evaporated. The residue was coated on Celite® and columned with 1:5 hexanes/ethyl acetate to give N-phenyl-3-(pyridin-2-yl)aniline (3.6 g, 14.62 mmol, 86% yield) as light yellow solid.

reactant | 2-(3-bromophenyl)pyridine | 17.09 mmol, 4 g | BrC=1C=C(C=CC1)C1=NC=CC=C1 | C11H8BrN
reactant | sodium t-butoxide | 25.6 mmol, 2.463 g | CC(C)([O-])C.[Na+]
reactant | Aniline | 25.6 mmol, 2.387 g | NC1=CC=CC=C1 | C6H7N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | xylene | 100 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2(dba)3 | 0.171 mmol, 0.156 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | dicyclohexyl(2′,6′-dimethoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.683 mmol, 0.281 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
product | N-phenyl-3-(pyridin-2-yl)aniline | 14.62 mmol, 3.6 g, 86% yield | C1(=CC=CC=C1)NC1=CC(=CC=C1)C1=NC=CC=C1 | C17H14N2
